US07307095B2
2-(S)-(Benzothiazol-2-ylamino)-3-cyclohexyl-N-[2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethyl]-propionamide.
The title compound was prepared from 2-chlorobenzothiazole, L-cyclohexylalanine and 2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylamine using the procedure analogous to that described in example 2. HPLC-MS calcd. for C26H31FN4OS (M+H+) 467.22, found 467.5.

reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | L-cyclohexylalanine | C1CCC(CC1)C[C@@H](C(=O)O)N | C9H17NO2
reactant | 2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylamine | FC=1C=C2CCN(C2=CC1)CCN | C10H13FN2
product | 2-(S)-(Benzothiazol-2-ylamino)-3-cyclohexyl-N-[2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethyl]-propionamide | S1C(=NC2=C1C=CC=C2)N[C@H](C(=O)NCCN2CCC1=CC(=CC=C21)F)CC2CCCCC2 | C26H31FN4OS
